US08012983B2
Step 1: (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-((1S,4S)-5-isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenyl]-amine
5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine (2.26 g, 8.14 mmol), 4-((1S,4S)-5-Isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine (2.07 g, 8.95 mmol, 1.10 equiv.) and DiPEA (4.3 mL, 24.42 mmol, 3.00 equiv.) are mixed in isopropanol (28 mL) under nitrogen. The reaction is heated to 85° C. until completion of the reaction (typically 5 h). The solvent is removed under vacuum and the residue is partitioned between 60 mL aqueous sodium phosphates buffer (pH 7) and 200 mL DCM, the organic layer is washed with 60 mL satd. NaCl, dried on anhydrous Na2SO4, filtered and evaporated in vacuo to yield the title compound (3.67 g) as a green-black foamy solid.

reactant | 5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 8.14 mmol, 2.26 g | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | 4-((1S,4S)-5-Isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine | 8.95 mmol, 2.07 g, 1.10 equiv. | C(C)(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC=C(C=C2)N | C14H21N3
reactant | DiPEA | 24.42 mmol, 4.3 mL, 3.00 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropanol | 28 mL | C(C)(C)O | C3H8O
product | (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-((1S,4S)-5-isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenyl]-amine | 3.67 g | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2[C@@H]1CN([C@H](C2)C1)C(C)C | C19H22BrN7
